US08071593B2
Preparation of 6-(1-hydroxyethyl)-3H-benzoxazol-2-one
2.5 g (14.1 mmol) of 6-acetyl-3H-benzoxazol-2-one are dissolved in 150 ml of methanol, and the mixture is stirred for 5 h with 2.5 g of palladium on activated carbon (5%) and under a hydrogen atmosphere. The catalyst is filtered off with suction and rinsed with methanol. The filtrate is evaporated to dryness and dried in vacuo.

reactant | 6-acetyl-3H-benzoxazol-2-one | 14.1 mmol, 2.5 g | C(C)(=O)C1=CC2=C(NC(O2)=O)C=C1 | C9H7NO3
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on activated carbon | 2.5 g | [Pd] | Pd
product | 6-(1-hydroxyethyl)-3H-benzoxazol-2-one | OC(C)C1=CC2=C(NC(O2)=O)C=C1 | C9H9NO3
